US05707989
4-Chloro-6-(cyclopropylamino)-pyrimido[5,4-d]pyrimidine
1.7 g of 4-hydroxy-6-(cyclopropylamino)-pyrimido[5,4-d]pyrimidine are heated under reflux with 50 ml of thionyl chloride with the addition of 4 drops of dimethylformamide for 1.5 hours. The reaction mixture is concentrated, methylene chloride is added and the mixture is concentrated again. The residue is then partitioned between methylene chloride and an aqueous potassium carbonate solution. The aqueous phase is extracted twice more with methylene chloride and the combined organic phases are dried and concentrated. The product is reacted further without further purification.

reactant | 4-hydroxy-6-(cyclopropylamino)-pyrimido[5,4-d]pyrimidine | 1.7 g | OC=1C2=C(N=CN1)C=NC(=N2)NC2CC2 | C9H9N5O
reactant | thionyl chloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
catalyst | dimethylformamide | 4 drops | CN(C=O)C | C3H7NO
product | 4-Chloro-6-(cyclopropylamino)-pyrimido[5,4-d]pyrimidine | ClC=1C2=C(N=CN1)C=NC(=N2)NC2CC2 | C9H8ClN5
